US07893060B2
To a solution of tert-butyl-1-piperazinecarboxylate (15.0 g) in dichloromethane (150 mL) and methanol (150 mL) at 0° C. was added hydrogen chloride (40 mL; 2M solution in diethyl ether). The mixture was stirred at room temperature for 1.5 hours and reduced in vacuo to yield tert-butyl-1-piperazinecarboxylate hydrochloride (17.9 g).

reactant | tert-butyl-1-piperazinecarboxylate | 15.0 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | hydrogen chloride | 2M, 40 mL | Cl | ClH
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | methanol | 150 mL | CO | CH4O
product | tert-butyl-1-piperazinecarboxylate hydrochloride | 17.9 g | Cl.C(C)(C)(C)OC(=O)N1CCNCC1 | InChI=1S/C9H18N2O2.ClH/c1-9(2,3)13-8(12)11-6-4-10-5-7-11;/h10H,4-7H2,1-3H3;1H
